US09107916B2
B. 2-[5-(4-methoxyphenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared in 100% yield from 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt (PREPARATION 3) and (2E)-3-(dimethylamino)-1-(4-methoxyphenyl)prop-2-en-1-one according to the procedure for the preparation of Example 12, part B. 1H NMR (400 MHz, CDCl3): δ 3.84 (3H, s), 6.46 (1H, d, J=5.6 Hz), 6.88 (2H, dd, J=6.8, 2.0 Hz), 7.20 (2H, dd, J=6.4, 2.0 Hz), 7.37 (1H, dd, J=5.2, 1.6 Hz), 7.75 (1H, d, J=1.6 Hz), 7.91 (1H, s), 8.44 (1H, dd, J=4.8, 0.8 Hz).

reactant | 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt | Cl.N(N)C1=NC=CC(=C1)C#N
reactant | (2E)-3-(dimethylamino)-1-(4-methoxyphenyl)prop-2-en-1-one | CN(/C=C/C(=O)C1=CC=C(C=C1)OC)C | C12H15NO2
product | 2-[5-(4-methoxyphenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile | 100% yield | COC1=CC=C(C=C1)C1=CC=NN1C1=NC=CC(=C1)C#N | C16H12N4O
